US06921763B2
A mixture of trifluoroacetic acid/dichloromethane (20:80, 7 mL) was added to a solution of tert-butyl N-{4-[4-amino-1-(1-methyl-4-piperidyl)-1H-pyrazolo[3,4-d]pyrimidin-3-yl]-2-methoxyphenyl}carbamate (240 mg, 0.529 mmol) in dichloromethane (4 mL) at 0° C. 15 minutes later, the ice-bath was removed and the reaction mixture was stirred at room temperature for 4 hours. The solvents were evaporated and the residue was dissolved in dichloromethane. Sodium hydroxide (1.0N) was added to adjust the pH to about 10. The layers were separated and the aqueous layer was extracted with dichloromethane four times. The combined organic layer was washed with brine, dried over MgSO4, filtered and evaporated to give 3-(4-amino-3-methoxyphenyl)-1-(1-methyl-4-piperidyl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine (178 mg, 95%). HPLC (Waters 486-Column: delta pak, C18, 5 um, 300 Å, 150×3.9 mm. Eluents: 5% B/A to 95% B/A in 10 min. (B: acetonitrile, A: 50 mM ammonia acetate buffer, pH 4.5), 1.0 mL/min.) Rt=6.45 min.

reactant | trifluoroacetic acid dichloromethane | 7 mL | FC(C(=O)O)(F)F.ClCCl
reactant | tert-butyl N-{4-[4-amino-1-(1-methyl-4-piperidyl)-1H-pyrazolo[3,4-d]pyrimidin-3-yl]-2-methoxyphenyl}carbamate | 0.529 mmol, 240 mg | NC1=C2C(=NC=N1)N(N=C2C2=CC(=C(C=C2)NC(OC(C)(C)C)=O)OC)C2CCN(CC2)C | C23H31N7O3
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
product | 3-(4-amino-3-methoxyphenyl)-1-(1-methyl-4-piperidyl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 178 mg, 95% | NC1=C(C=C(C=C1)C1=NN(C2=NC=NC(=C21)N)C2CCN(CC2)C)OC | C18H23N7O
